US09388161B2
A solution of (S)-methyl 5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoline-1(2H)-carboxylate (0.400 g, 1.00 mmol), tert-butyl 3-(4-bromothiazol-2-yl)-3-hydroxyazetidine-1-carboxylate (0.367 g, 1.10 mmol), sodium carbonate (0.212 g, 2.00 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.082 g, 0.10 mmol) in 1,4-dioxane (10 mL) and water (3 mL) stirred overnight at 80° C. The reaction mixture was cooled to room temperature, filtered through a pad of Celite, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 30% ethyl acetate/petroleum ether) to afford (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-hydroxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.366 g, 69%) as a yellow solid. MS (ESI, pos. ion) m/z 530 [M+H]+.

reactant | (S)-methyl 5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | 1.00 mmol, 0.400 g | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1B1OC(C(O1)(C)C)(C)C)C(=O)OC)C | C22H32BNO5
reactant | tert-butyl 3-(4-bromothiazol-2-yl)-3-hydroxyazetidine-1-carboxylate | 1.10 mmol, 0.367 g | BrC=1N=C(SC1)C1(CN(C1)C(=O)OC(C)(C)C)O | C11H15BrN2O3S
reactant | sodium carbonate | 2.00 mmol, 0.212 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.10 mmol, 0.082 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-hydroxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.366 g, 69% | C(C)(C)(C)OC(=O)N1CC(C1)(O)C=1SC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C27H35N3O6S
